US06936632B2
d) 2-(4-Fluorophenyl)-1-(4-methanesulphonylphenyl)-3-methyl-6,7-dihydro-5H-pyrrolizine
Chlorosulphonic acid (7 g, 60 mmol) is added dropwise to a solution of 6-(4-fluorophenyl)-5-methyl-7-phenyl-2,3-dihydro-1H-pyrrolizine (2.91 g, 10 mmol) in CHCl3 (12 ml) cooled to 0° C. with further cooling and the mixture is heated under reflux (66° C.) for 3 h after addition is complete. The reaction mixture is then poured onto ice water (0.4 kg) and the sulphonyl chloride depositing is taken up in chloroform (150 ml). The ice-water phase is extracted with chloroform (100 ml). These CHCl3 extracts are dried using Na2SO4 sicc. and concentrated. The residue is treated with an aqueous solution (25 ml) of Na2SO3 (1.42 g, 11.2 mmol) and NaHCO3 (1.89 g, 22.5 mmol) and heated at 70° C. (IT) for 2 h. After addition of ethanol (25 ml) and methyl iodide (1.0 ml, 2.27 g, 16 mmol), the temperature is increased to 100° C. (IT) and maintained for a further 2 h (reflux). After the cooling of the mixture, deposited solid is filtered off with suction, washed with water (10 ml) and dried over P2O5 in vacuo: 0.4 g (11%) of the product having a melting point of 191° C. (97% purity) results. The aqueous-ethanolic phase is extracted with ethyl acetate (50 ml) and the filtrate is concentrated after drying with Na2SO4 sicc. The residue crystallizes from EtOH (5 ml): 0.5 g (14% of theory, 94% purity) results.

reactant | Chlorosulphonic acid | 60 mmol, 7 g | ClS(=O)(=O)O | ClHO3S
reactant | 6-(4-fluorophenyl)-5-methyl-7-phenyl-2,3-dihydro-1H-pyrrolizine | 10 mmol, 2.91 g | FC1=CC=C(C=C1)C1=C(N2CCCC2=C1C1=CC=CC=C1)C | C20H18FN
reactant | sulphonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | Na2SO3 | 11.2 mmol, 25 ml, 1.42 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 22.5 mmol, 1.89 g | C(=O)(O)[O-].[Na+]
reactant | methyl iodide | 16 mmol, 1.0 ml, 2.27 g | CI | CH3I
solvent | CHCl3 | 12 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-(4-Fluorophenyl)-1-(4-methanesulphonylphenyl)-3-methyl-6,7-dihydro-5H-pyrrolizine | FC1=CC=C(C=C1)C=1C(=C2CCCN2C1C)C1=CC=C(C=C1)S(=O)(=O)C | C21H20FNO2S
